US05597918
To a solution of 1.2 g of 9-acetyl-2-(4-chlorophenyl)-2,4,4a,5,6,7-hexahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one in 15% hydrogen bromide-acetic acid solution was added 0.23 ml of dimethylsulfoxide at room temperature with stirring. After stirring at the same temperature for 15 minutes, the mixture was poured into 0.5% sodium hydrogensulfite solution and extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was chromatographed on a silica gel column using chloroform as an eluent. The resulting solid was recrystallized from ethanol to give 0.4 g of 9-acetyl-2-(4-chlorophenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one as a white crystal, melting at 164°-166° C.

reactant | 9-acetyl-2-(4-chlorophenyl)-2,4,4a,5,6,7-hexahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 1.2 g | C(C)(=O)C1=CC2=C(CCCC3C2=NN(C(C3)=O)C3=CC=C(C=C3)Cl)S1 | C19H17ClN2O2S
reactant | dimethylsulfoxide | 0.23 ml | CS(=O)C | C2H6OS
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | hydrogen bromide acetic acid | Br.C(C)(=O)O
product | 9-acetyl-2-(4-chlorophenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 0.4 g | C(C)(=O)C1=CC2=C(CCCC=3C2=NN(C(C3)=O)C3=CC=C(C=C3)Cl)S1 | C19H15ClN2O2S
